US04009275
A mixture of 1.5 g of 2-allyl-4-fluorophenol, 3.1 g of 8-(3-chloropropyl)-1-phenyl-4-oxo-1,3,8-triazaspiro[4,5]decane, 0.7 g of potassium carbonate and 40 ml of toluene was heated under reflux for 10 hours. After cooling, the reaction mixture was washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue was triturated with ether, cooled and filtered to give 8-{3-(2-allyl-4-fluorophenoxy)propyl}-1-phenyl-4-oxo-1,3,8-triazaspiro[4,5]decane, m.p. 110° - 113° C; recrystallized from cyclohexane, m.p. 117° - 117.5° C.

reactant | 2-allyl-4-fluorophenol | 1.5 g | C(C=C)C1=C(C=CC(=C1)F)O | C9H9FO
reactant | 8-(3-chloropropyl)-1-phenyl-4-oxo-1,3,8-triazaspiro[4,5]decane | 3.1 g | ClCCCN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C16H22ClN3O
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 8-{3-(2-allyl-4-fluorophenoxy)propyl}-1-phenyl-4-oxo-1,3,8-triazaspiro[4,5]decane | C(C=C)C1=C(OCCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=CC(=C1)F | C25H30FN3O2
